US04496551
Preparation of Chloromethyl(4-chlorophenyl)dimethylsilane
A solution of 9.6 g (0.050 mol) of 4-bromochlorobenzene and 6.6 ml (7.2 g, 0.050 mol) of chloro(chloromethyl)dimethylsilane in 75 ml of tetrahydrofuran was stirred at -78° under nitrogen while 31 ml (0.050 mol) of 1.6 molar n-butyllithium in hexane was added dropwise. The resulting clear solution was allowed to warm to room temperature, diluted with ether until no more lithium chloride precipitated, and filtered. Evaporation of the filtrate left 10.6 g of a light yellow liquid, which was distilled to give 6.0 g (55%) of the title compound as a colorless liquid: bp 54°-58° C. (0.05 mm); ir (neat) 2910, 1560, 1470, 1370, 1250, 1080, 1010, 840, 805, 790, 740 cm-1 ; nmr (CDCl3) 0.4 (6H, s), 2.9 (2H, s), 7.1-7.6 (4H, q).

reactant | 4-bromochlorobenzene | 0.050 mol, 9.6 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | chloro(chloromethyl)dimethylsilane | 0.050 mol, 6.6 ml, 7.2 g | Cl[Si](C)(C)CCl | C3H8Cl2Si
reactant | n-butyllithium | 0.050 mol, 1.6 molar, 31 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
solvent | lithium chloride | [Cl-].[Li+]
product | Chloromethyl(4-chlorophenyl)dimethylsilane | 6.0 g, 55% | ClC[Si](C)(C)C1=CC=C(C=C1)Cl | C9H12Cl2Si
